US05250548
Ethyl 2-chloropyridine-5-carboxylate
To 6.85 g (44 mmol) of 6-chloronicotinic acid dissolved in 50 mL of tetrahydrofuran was added ethanol (6 mL), dimethylaminopyridine (700 mg) and 1-(3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (EDCl) (9.4 g, 49 mmol). The reaction was stirred at ambient temperature for 4 hours and then concentrated under reduced pressure. The residue was diluted with ethyl acetate, washed with water (2×), saturated sodium bicarbonate (2×) and brine, dried over sodium sulfate and concentrated in vacuo. The residue obtained was flash chromatographed on silica gel eluting with 10% ethyl acetate in hexane to afford 6.00 g of the title compound as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ 1.40 (t, 3H), 4.40 (q, 2H), 7.40 (d, 1H), 8.25 (dd, 1H), 9.00 (d, 1H). MS (DCl/NH3) m/e 186/188 (M+H)+, 203/205 (M+H+NH3 )+.

reactant | 6-chloronicotinic acid | 44 mmol, 6.85 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | ethanol | 6 mL | C(C)O | C2H6O
reactant | dimethylaminopyridine | 700 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 49 mmol, 9.4 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Ethyl 2-chloropyridine-5-carboxylate | 6.00 g | ClC1=NC=C(C=C1)C(=O)OCC | C8H8ClNO2
